US09061013B2
1-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}azetidine-3-carboxylic acid dimethylamide
To a stirred solution of 1-{4-[5-(3,4,5-Trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid (Preparation 12, 0.1 g, 0.203 mmol) in DMF (3 mL) was added HATU (0.115 g, 0.304 mmol) HOBt (0.03 g, 0.223 mmol), DIPEA (0.052 g, 0.406 mmol) followed by addition of saturated solution of dimethyl amine in THF (2 mL) at 0° C. and stirred at 0° C. for 3 hours. After complete consumption of starting material, reaction mixture was quenched with water (20 mL), extracted with EtOAc (3×20 mL). Combined organic layer was washed with brine (50 mL), saturated solution of lithium chloride (50 mL), and water (50 mL), dried over sodium sulphate and evaporated in vacuo to get crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Compound was eluted using 0.6% methanol in DCM to afford white solid (0.050 g, 48%. 1H-NMR (400 MHz, CDCl3) δ: 2.94 (s, 3H), 2.97 (s, 3H), 3.61 (d, 1H, J=17.08 Hz), 3.69-3.77 (m, 1H), 4.02 (d, 1H, J=17.04 Hz), 4.11 (d, 4H, J=7.48 Hz), 6.40 (d, 2H, J=8.72 Hz), 7.46 (d, 2H, J=8.68 Hz), 7.63 (s, 2H); LC-MS (m/z): [M+H] 519.80.

reactant | 1-{4-[5-(3,4,5-Trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid | 0.203 mmol, 0.1 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CC(=NO1)C1=CC=C(C=C1)N1CC(C1)C(=O)O)C(F)(F)F | C20H14Cl3F3N2O3
reactant | HATU | 0.304 mmol, 0.115 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.406 mmol, 0.052 g | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethyl amine | CNC | C2H7N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}azetidine-3-carboxylic acid dimethylamide | CN(C(=O)C1CN(C1)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)C | C22H19Cl3F3N3O2
